US05019598
41 3 ml (0.55 mole) of 37% strength aqueous formaldehyde solution, 85.3 g (0.55 mole) of trans-4-tertbutylcyclohexylamine, 95 g (0.579 mole) of 4-tert-pentylphenol and 1 g of sodium hydroxide are added in succession to 300 ml of dioxane at from 20° to 35° C. The mixture is then stirred for 6 hours at 70° C. and cooled to +5° C., and the precipitate is filtered off under suction, washed with 100 ml of water and then with 50 ml of dioxane and dried. 104 g (57% of theory) of trans-2-(4'-tert-butylcyclohexylamino)-methyl-4-tert-pentylphenol are obtained as white crystals of melting point 148°-150° C. (active ingredient No. 1).

reactant | formaldehyde | C=O | CH2O
reactant | trans-4-tertbutylcyclohexylamine | 0.55 mole, 85.3 g | C(C)(C)(C)[C@@H]1CC[C@H](CC1)N | C10H21N
reactant | 4-tert-pentylphenol | 0.579 mole, 95 g | C(C)(C)(CC)C1=CC=C(C=C1)O | C11H16O
catalyst | sodium hydroxide | 1 g | [OH-].[Na+]
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | trans-2-(4'-tert-butylcyclohexylamino)-methyl-4-tert-pentylphenol | 104 g, 57% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)NC1=C(C=CC(=C1C)C(C)(C)CC)O | C22H37NO
